US07838674B2
3-Bromo-5-(2-fluoro-phenyl)-pyridine
3,5-Dibromopyridine (ABCR Product List AB115322) (250 mg; 2.1 mmol), 2-fluorophenylboronic acid (Sigma-Aldrich, order number 445223)(147 mg; (2.1 mmol), Pd(PPh3)2Cl2 (148 mg; 0.4 mmol) are combined in DMF (8 ml) and 2N Na2CO3 (1.3 ml) and heated to 160° C. in an oil bath for 20 minutes. The reaction mixture is evaporated to dryness, taken up in TBME/CH2Cl2 (30 ml/10 ml), diluted with hexanes (50 ml), filtered and evaporated to dryness. The solid white residue is dissolved in TBME (10 ml), diluted with hexanes, filtered, and purified via chromatography (SiO2, TBME/hexanes 5:95) to yield the title compound as white crystals (125 mg; 47%). MS (m/z) ES+: 252, 254 (MH+). Retention time: 2.79 minutes (LC-MS method 3).

reactant | 3,5-Dibromopyridine | 2.1 mmol, 250 mg | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 2-fluorophenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 2N, 1.3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.4 mmol, 148 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Bromo-5-(2-fluoro-phenyl)-pyridine | 125 mg, 47% | BrC=1C=NC=C(C1)C1=C(C=CC=C1)F | C11H7BrFN
